Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
codeine / ibuprofen / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
s/p excision arthroplasty left total hip replacement
 
Major Surgical or Invasive Procedure:
___: excision arthroplasty left total hip replacement, 
antibiotic spacer placement

 
History of Present Illness:
Mr. ___ is a ___ with h/o morbid obesity, OSA, IDDM, 
COPD (3L home O2), ___, multiple hip replacement surgeries and 
multiple episodes of THR displacement on the left, admitted 
after a complete resection left arthroplasty, placement of 
antibiotic spacer.
 
Past Medical History:
- Diabetes mellitus, type 2  
- Hypertension  
- Dyslipidemia  
- COPD on 3L home O2
- HFpEF  
- OSA uses CPAP
- CAD - denies prior MI
- Morbid Obesity  
- s/p multiple hip replacement surgeries; L hip replacement in 
___ at ___ decubitus stage IV with previous debridement bilateral 
gluteal V-Y myocutaneous flap closure with dehiscence of the 
wound. That wound has been treated with VAC, pulse lavage, and 
has been positive in the past for Proteus mirabilis and E. coli. 


 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with staples  
* Scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm  

 
Pertinent Results:
Intraoperative cultures
SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------<=0.25 S
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
LEVOFLOXACIN----------     1 S
TETRACYCLINE----------  =>16 R
TRIMETHOPRIM/SULFA----  <=10 S
VANCOMYCIN------------     1 S

___ 07:30AM BLOOD WBC-5.6 RBC-3.08* Hgb-8.6* Hct-26.8* 
MCV-87 MCH-27.9 MCHC-32.1 RDW-14.7 RDWSD-46.8* Plt ___
___ 07:19AM BLOOD WBC-4.3 RBC-3.13* Hgb-8.7* Hct-27.3* 
MCV-87 MCH-27.8 MCHC-31.9* RDW-14.6 RDWSD-46.2 Plt ___
___ 07:34AM BLOOD WBC-4.1 RBC-2.92* Hgb-8.2* Hct-25.1* 
MCV-86 MCH-28.1 MCHC-32.7 RDW-14.7 RDWSD-45.6 Plt ___
___ 03:30PM BLOOD WBC-4.7 RBC-2.60* Hgb-7.2* Hct-22.4* 
MCV-86 MCH-27.7 MCHC-32.1 RDW-15.0 RDWSD-47.2* Plt ___
___ 12:55AM BLOOD WBC-5.3 RBC-2.79* Hgb-7.7* Hct-23.9* 
MCV-86 MCH-27.6 MCHC-32.2 RDW-15.2 RDWSD-47.7* Plt ___
___ 08:15PM BLOOD WBC-5.1 RBC-2.66* Hgb-7.4* Hct-22.7* 
MCV-85 MCH-27.8 MCHC-32.6 RDW-15.0 RDWSD-46.5* Plt Ct-93*
___ 12:46PM BLOOD WBC-5.7 RBC-2.62* Hgb-7.2* Hct-22.4* 
MCV-86 MCH-27.5 MCHC-32.1 RDW-15.3 RDWSD-47.8* Plt ___
___ 02:04AM BLOOD WBC-7.0 RBC-2.47* Hgb-6.7* Hct-21.0* 
MCV-85 MCH-27.1 MCHC-31.9* RDW-15.7* RDWSD-48.0* Plt ___
___ 03:00AM BLOOD WBC-9.0 RBC-3.25* Hgb-8.8* Hct-27.1* 
MCV-83 MCH-27.1 MCHC-32.5 RDW-15.7* RDWSD-47.8* Plt ___
___ 09:42PM BLOOD WBC-9.6 RBC-3.39* Hgb-9.4* Hct-28.5* 
MCV-84 MCH-27.7 MCHC-33.0 RDW-15.5 RDWSD-47.0* Plt ___
___ 04:20PM BLOOD WBC-7.2 RBC-3.54* Hgb-9.3* Hct-30.2* 
MCV-85 MCH-26.3 MCHC-30.8* RDW-15.3 RDWSD-47.8* Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:19AM BLOOD Plt ___
___ 07:34AM BLOOD Plt ___
___ 03:30PM BLOOD Plt ___
___ 12:55AM BLOOD Plt ___
___ 12:55AM BLOOD ___ PTT-27.3 ___
___ 08:15PM BLOOD Plt Smr-LOW Plt Ct-93*
___ 12:46PM BLOOD Plt ___
___ 02:04AM BLOOD Plt ___
___ 03:00AM BLOOD Plt ___
___ 03:00AM BLOOD ___ PTT-30.3 ___
___ 09:42PM BLOOD Plt ___
___ 09:42PM BLOOD ___ PTT-29.4 ___
___ 04:20PM BLOOD Plt ___
___ 04:20PM BLOOD ___ PTT-33.1 ___
___ 04:20PM BLOOD ___ 07:30AM BLOOD Glucose-123* UreaN-12 Creat-0.5 Na-134 
K-4.3 Cl-91* HCO3-38* AnGap-9
___ 07:19AM BLOOD Glucose-151* UreaN-11 Creat-0.5 Na-133 
K-4.1 Cl-90* HCO3-37* AnGap-10
___ 07:34AM BLOOD Glucose-105* UreaN-11 Creat-0.5 Na-135 
K-3.9 Cl-93* HCO3-36* AnGap-10
___ 12:55AM BLOOD Glucose-138* UreaN-12 Creat-0.5 Na-135 
K-4.0 Cl-96 HCO3-33* AnGap-10
___ 02:04AM BLOOD Glucose-192* UreaN-15 Creat-0.6 Na-135 
K-4.5 Cl-97 HCO3-31 AnGap-12
___ 03:00AM BLOOD Glucose-227* UreaN-18 Creat-0.7 Na-134 
K-4.8 Cl-98 HCO3-27 AnGap-14
___ 09:42PM BLOOD Glucose-186* UreaN-19 Creat-0.7 Na-135 
K-4.6 Cl-99 HCO3-29 AnGap-12
___ 07:30AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.7
___ 07:19AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.7
___ 07:34AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.7
___ 12:55AM BLOOD Calcium-8.7 Phos-2.0* Mg-1.8
___ 02:04AM BLOOD Calcium-8.0* Phos-2.9 Mg-2.0
___ 03:00AM BLOOD Calcium-8.8 Phos-4.4 Mg-1.9
___ 09:42PM BLOOD Calcium-8.9 Phos-4.0 Mg-1.6
 
Brief Hospital Course:
Ortho course:

The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:

Transferred to ___ for pressors requirement, intubated & 
sedated.  He was brought to the FICU due to obesity and 
hypoventilation with Pickwickian syndrome.  His FICU course is 
described below.

# Respiratory failure: The patient has Pickwickian syndrome 
(obesity hypoventilation syndrome) and was brought to the unit.  
Patient was extubated POD2. He was still sleepy, however his 
ABGs were close to his baseline.  Overnight, he used CPAP 
without issue. The patient uses 3L NC at home; however, in the 
ICU he was weaned to 1L NC.

# Anemia: Patient's hemoglobin dropped to 6.7, the patient was 
transfused 3 units of blood.  His hemoglobin was 7.2 after 2 
units. Ortho evaluated the patient and there was no concern for 
an acute bleed.

The patient was eventually transferred to the floor in stable 
condition.

ID was consulted for infection & recommended Ancef x 6 weeks on 
discharge.  OR cultures grew MSSA.  PICC was placed by ___ on 
___ for long-term antibiotic treatment.

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Lovenox (40 mg BID) for 
DVT prophylaxis starting on the morning of POD#1.  The foley was 
removed and the patient was voiding independently thereafter. 
The overlying dressing was removed on POD#2 and the Silverlon 
dressing was found to be clean and dry. The patient was seen by 
physical therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge the 
patient was tolerating a regular diet and feeling well.  The 
patient was afebrile with stable vital signs.  The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact and the wound was benign.

The patient's weight-bearing status is non-weight bearing left 
lower extremity.

Mr. ___ is discharged to rehab in stable condition.

 
Medications on Admission:
1. Lisinopril 20 mg PO DAILY 
2. Mupirocin Ointment 2% 1 Appl NU BID 
3. Gabapentin 900 mg PO TID 
4. OLANZapine 15 mg PO QHS 
5. ClonazePAM 0.5 mg PO TID 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Venlafaxine XR 300 mg PO DAILY 
11. Tamsulosin 0.4 mg PO QHS 
12. Divalproex (DELayed Release) 500 mg PO BID 
13. Docusate Sodium 100 mg PO BID 
14. FoLIC Acid 1 mg PO DAILY 
15. HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN pain 
16. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1. Divalproex (DELayed Release) 500 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Gabapentin 900 mg PO TID 
4. Pantoprazole 40 mg PO Q24H 
5. Tamsulosin 0.4 mg PO QHS 
6. Venlafaxine XR 300 mg PO DAILY 
7. ClonazePAM 0.5 mg PO TID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Furosemide 40 mg PO DAILY 
11. Lisinopril 20 mg PO DAILY 
12. OLANZapine 15 mg PO QHS 
13. Rosuvastatin Calcium 20 mg PO QPM 
14. Metoprolol Succinate XL 50 mg PO DAILY 
15. CefazoLIN 2 g IV Q8H 
stop date: tentative ___  
16. Enoxaparin Sodium 40 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
17. Glargine 42 Units Breakfast
Glargine 42 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
18. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
19. Acetaminophen 650 mg PO Q6H:PRN pain 
20. Senna 8.6 mg PO BID:PRN Constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Infected left THA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills.

3. Resume your home medications unless otherwise instructed.

4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

5. You may not drive a car until cleared to do so by your 
surgeon.

6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.

7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc).

8. ANTICOAGULATION: Please continue your Lovenox for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  If 
you were taking aspirin prior to your surgery, it is OK to 
continue at your previous dose while taking anticoagulation 
medication.  ___ STOCKINGS x 6 WEEKS.

9. WOUND CARE: It is okay to shower five days after surgery but 
no tub baths, swimming, or submerging your incision until after 
your four (4) week checkup. You may place a dry sterile dressing 
on the wound, otherwise leave it open to air. Check wound 
regularly for signs of infection such as redness or thick yellow 
drainage. Staples will be removed by the visiting nurse or rehab 
facility in two (2) weeks.

10. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks, and staple removal at two weeks after 
surgery.

11. ACTIVITY: Non weight bearing left lower extremity. No 
strenuous exercise or heavy lifting until follow up appointment. 
 Mobilize frequently.

12. PICC CARE: Per protocol

13. WEEKLY LABS: draw on ___ and send result to ID RNs 
at: ___ R.N.s at ___. 
 - CBC/DIFF
 - CHEM 7
 - LFTS
 - ESR/CRP

**All questions regarding outpatient parenteral antibiotics 
should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed. 
Physical Therapy:
Non weight bearing left lower extremity

Treatments Frequency:
Dry sterile dressing daily
Wound monitoring daily
Sutures to be removed POD14 if incision clean dry & intact
 
Followup Instructions:
___